US06777406B2
(±)-cis-N-[2-(trifluoromethyl)benzyl]-4,5,7,7a,8,9,10,10a-octahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinolin-2-amine
Using 2-(trifluoromethyl)benzaldehyde and following the procedures described in EXAMPLE 76, (±)-cis tert-butyl 2-amino-4,5,7a,8,10,10a-hexahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinoline-9(7H)-carboxylate was converted into (±)-cis-N-[2-(trifluoromethyl)benzyl]-4,5,7,7a,8,9,10,10a-octahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinolin-2-amine, bis-trifluoroacetic acid salt, after HPLC purification (C18 reverse phase column, elution with a H2O/CH3CN gradient with 0.5% TFA). This material was free-based with aq ammonium hydroxide, extracted with chloroform, washed with brine, dried (K2CO3) and concentrated to the title compound of EXAMPLE 119 as the free base. 1H NMR (CDCl3) δ: 7.69 (d, 1H, J=7.7 Hz), 7.65 (d, 1H, J=7.7 Hz), 7.51 (t, 1H, J=7.4 Hz), 7.37 (t, 1H, J=7.7 Hz), 6.42 (d, 1H, J=1.4 Hz), 6.14 (d, 1H, J=1.8 Hz), 4.47 (s, 2H), 3.70 (dd, 1H, J=11.4, 8.1 Hz), 3.56 (dd, 1H, J=11.9, 7.5 Hz), 3.45 (q, 1H, J=7.7 Hz), 3.28-3.10 (m, 3H), 3.05 (dd, 1H, J=11.5, 8.3 Hz), 2.97-2.85 (m, 4H), 2.72 (dd, 1H, J=11.5, 8.6 Hz). LRMS (ES)+: 374.3 (M+H)+.

reactant | 2-(trifluoromethyl)benzaldehyde | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | (±)-cis tert-butyl 2-amino-4,5,7a,8,10,10a-hexahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinoline-9(7H)-carboxylate | NC=1C=C2[C@@H]3[C@H](CN4C2=C(C1)CC4)CN(C3)C(=O)OC(C)(C)C | C18H25N3O2
product | (±)-cis-N-[2-(trifluoromethyl)benzyl]-4,5,7,7a,8,9,10,10a-octahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinolin-2-amine | FC(C1=C(CNC=2C=C3[C@@H]4[C@H](CN5C3=C(C2)CC5)CNC4)C=CC=C1)(F)F | C21H22F3N3
